US05510366
(1) 4'-Dimethylaminomethyl-5'-hydroxy-2'-methylacetanilide
14.86 g (90.1 mmol) of 5'-hydroxy-2'-methylacetanilide was dissolved in 50 ml of N,N-dimethylformamide. 32.9 g of 40% (w/w) aqueous solution of dimethylamine and 14.6 g of 37% (w/w) aqueous solution of formalin were added to the solution, and the mixture was stirred for 24 hours at room temperature. After the reaction, the solvent was evaporated under reduced pressure to obtain a crude product. 17.1 mg (yield: 91.2%) of the title compound was obtained by washing this crude product with n-hexane and collecting crystals by filtration.

reactant | 5'-hydroxy-2'-methylacetanilide | 90.1 mmol, 14.86 g | OC=1C=CC(=C(NC(C)=O)C1)C | C9H11NO2
reactant | dimethylamine | CNC | C2H7N
reactant | formalin | C=O | CH2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4'-Dimethylaminomethyl-5'-hydroxy-2'-methylacetanilide | 17.1 mg, yield: 91.2% | CN(C)CC1=CC(=C(NC(C)=O)C=C1O)C | C12H18N2O2
